US07189712B2
Preparation of 2-bromo-5-(3-hydroxyphenyl)-1,3-oxazole
Boron tribromide (5.0 mL, 13.25 g, 53 mmol) was added dropwise to a stirred solution of 2-bromo-5-(3-methoxyphenyl)-1,3-oxazole (2.1 g, 10 mmol) in dry dichloromethane (50 mL) at RT under Nitrogen. The reaction mixture was stirred for about 1 h and then carefully poured over ice. After the ice melted, the mixture was extracted with ethyl acetate (2×250 mL). The combined organic extracts were dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The resulting solid was collected by filtration and dried under vacuum to afford a light brown solid (1.13 g, 47%). 1H NMR (400 MHz, d6-DMSO): δ 6.74 (dd, J1=8.1, J2=2.2, 1H), 6.99 (d, J=2, 1H), 7.05 (d, J=7.9, 1H), 7.21 (t, J=7.9, 1H), 7.64 (s, 1H), 9.48 (bs, 1H).

reactant | Boron tribromide | 53 mmol, 5.0 mL, 13.25 g | B(Br)(Br)Br | BBr3
reactant | 2-bromo-5-(3-methoxyphenyl)-1,3-oxazole | 10 mmol, 2.1 g | BrC=1OC(=CN1)C1=CC(=CC=C1)OC | C10H8BrNO2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 2-bromo-5-(3-hydroxyphenyl)-1,3-oxazole | 1.13 g, 47% | BrC=1OC(=CN1)C1=CC(=CC=C1)O | C9H6BrNO2
